US07825253B2
5-Bromo-2-chloroquinoline (CAS 99455-13-7, 2.4 g, 10 mmol) and 2-methoxybenzylamine (2.7 g, 20 mmol) were stirred in a sealed tube at 120° C. for 3 days. The reaction mixture was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->80:20 gradient). (5-Bromo-quinolin-2-yl)-(2-methoxy-benzyl)-amine was obtained as a light yellow solid (2.3 g, 67%), MS: m/e=343.1, 345.0 (M+H+).

reactant | 5-Bromo-2-chloroquinoline | 10 mmol, 2.4 g | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | 20 mmol, 2.7 g | COC1=C(CN)C=CC=C1 | C8H11NO
product | (5-Bromo-quinolin-2-yl)-(2-methoxy-benzyl)-amine | BrC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC | C17H15BrN2O
